US09447090B2
To 252 mg of diethyl[({8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}carbonyl)amino]malonate were added 4 ml of ethanol, 0.23 ml of a 20% sodium ethoxide/ethanol solution, and 0.31 ml of 1-iodobutane, followed by stirring at 70° C. for 3 hours. Subsequently, 11 mg of sodium ethoxide was added thereto, followed by stirring at 70° C. for 1 hour. To the reaction mixture were added an aqueous citric acid solution, a saturated aqueous sodium hydrogen carbonate solution, and chloroform to carry out a layer separation operation. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 69 mg of diethyl butyl[({8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}carbonyl)amino]malonate.

reactant | diethyl[({8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}carbonyl)amino]malonate | 252 mg | C(C)OC(C(C(=O)OCC)NC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)=O | C23H23F2N3O6
reactant | sodium ethoxide ethanol | [O-]CC.[Na+].C(C)O
reactant | 1-iodobutane | 0.31 ml | ICCCC | C4H9I
reactant | sodium ethoxide | 11 mg | [O-]CC.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | diethyl butyl[({8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}carbonyl)amino]malonate | 69 mg | C(CCC)C(C(=O)OCC)(C(=O)OCC)NC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C | C27H31F2N3O6
